US07960562B2
10% Pd—C (85 mg) was added to an ethyl acetate (150 mL) suspension of N-({3-[3-(3,5-difluorophenyl)-2-(5-nitro-1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]phenyl}sulfonyl)ethanimidamide (845 mg), followed by stirring at room temperature for 22 hours under hydrogen atmosphere (1 atm). The insoluble matter was separated by filtration, washed with ethanol, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform/methanol=30/1), and recrystallized from ethyl acetate/n-hexane to obtain N-({3-[2-(5-amino-1,3-dihydro-2H-benzimidazol-2-ylidene)-3-(3,5-difluorophenyl)-3-oxopropanoyl]phenyl}sulfonyl)ethanimidamide (667 mg).

reactant | N-({3-[3-(3,5-difluorophenyl)-2-(5-nitro-1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]phenyl}sulfonyl)ethanimidamide | 845 mg | FC=1C=C(C=C(C1)F)C(C(C(=O)C=1C=C(C=CC1)S(=O)(=O)NC(C)=N)=C1NC2=C(N1)C=CC(=C2)[N+](=O)[O-])=O | C24H17F2N5O6S
catalyst | Pd—C | 85 mg | [Pd] | Pd
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | N-({3-[2-(5-amino-1,3-dihydro-2H-benzimidazol-2-ylidene)-3-(3,5-difluorophenyl)-3-oxopropanoyl]phenyl}sulfonyl)ethanimidamide | 667 mg | NC1=CC2=C(NC(N2)=C(C(=O)C=2C=C(C=CC2)S(=O)(=O)NC(C)=N)C(=O)C2=CC(=CC(=C2)F)F)C=C1 | C24H19F2N5O4S
